US04438207
To a solution of 1.00 g (2.49 mmol) of (6aR-trans)-4-[(6a,7,8,10a-Tetrahydro-6,6,9-trimethyl-3-pentyl-6H-dibenzo[b,d]pyran-1-yl)oxy]butanoic acid in 4 ml of benzene was added 1.0 ml (1.46 g, 11.4 mmol) of oxalyl chloride. When the evolution of gas ceased, the mixture was heated with an 80° oil, both for 30 min. The excess oxalyl chloride and the benzene were evaporated under vacuum, 2 ml of benzene was added, and this was also evaporated. The residue was dissolved in 2 ml of ether and add with stirring to an ice cold solution of 443 mg (3.23 mmol) of tyramine in 3.25 nl of 1 N sodium hydroxide, while also adding, at the same rate, 2.5 ml of ice cold 1 N sodium hydroxide. The resulting suspension was stirred at ice temperature for one hour, acidified with hydrochloric acid and extracted with ether. The extracts were dried and concentrated, and the residue was chromatographed on silica gel. Elution with 2% methanol in chloroform and concentration of the fractions containing product gave 330 mg (25%) of (6aR-trans)-4-[(6a,7,8,10a-Tetrahydro-6,6,9-trimethyl-3-pentyl-6H-dibenzo[b,d]pyran-1-yl)oxy]-N-[2-(4-hydroxyphenyl)ethyl]butanamide as a colorless oil.

reactant | (6aR-trans)-4-[(6a,7,8,10a-Tetrahydro-6,6,9-trimethyl-3-pentyl-6H-dibenzo[b,d]pyran-1-yl)oxy]butanoic acid | 2.49 mmol, 1.00 g | CC1([C@H]2[C@H](C3=C(O1)C=C(C=C3OCCCC(=O)O)CCCCC)C=C(CC2)C)C | C25H36O4
reactant | oxalyl chloride | 11.4 mmol, 1.0 ml, 1.46 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tyramine | 3.23 mmol, 443 mg | NCCC1=CC=C(C=C1)O | C8H11NO
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | 4 ml | C1=CC=CC=C1 | C6H6
solvent | sodium hydroxide | 1 N, 3.25 nl | [OH-].[Na+]
product | (6aR-trans)-4-[(6a,7,8,10a-Tetrahydro-6,6,9-trimethyl-3-pentyl-6H-dibenzo[b,d]pyran-1-yl)oxy]-N-[2-(4-hydroxyphenyl)ethyl]butanamide | 330 mg, 25% | CC1([C@H]2[C@H](C3=C(O1)C=C(C=C3OCCCC(=O)NCCC3=CC=C(C=C3)O)CCCCC)C=C(CC2)C)C | C33H45NO4
